### PR TITLE
[Merged by Bors] - feat: the affine span is contained in the linear span

### PR DESCRIPTION
**Pull request by sgouezel**
Also lint the corresponding file.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace.lean [hunk 1]
```diff
@@ -1425,6 +1427,14 @@ theorem vectorSpan_insert_eq_vectorSpan {p : P} {ps : Set P} (h : p ∈ affineSp
   simp_rw [← direction_affineSpan, affineSpan_insert_eq_affineSpan _ h]
 #align vector_span_insert_eq_vector_span vectorSpan_insert_eq_vectorSpan
 
+lemma affineSpan_subset_span {s : Set V} : (affineSpan k s : Set V) ⊆ Submodule.span k s := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace.lean:1430]: I think this might be a better statement (though we could have both):
```suggestion
lemma affineSpan_le_toAffineSubspace_span {s : Set V} :
    affineSpan k s ≤ (Submodule.span k s).toAffineSubspace := by
```
The proof goes through without modification.

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace.lean [hunk 2]
```diff
@@ -1425,6 +1427,14 @@ theorem vectorSpan_insert_eq_vectorSpan {p : P} {ps : Set P} (h : p ∈ affineSp
...
+  intro x hx
+  apply affineSpan_induction hx (p := fun y ↦ y ∈ Submodule.span k s)
+    (fun x hx ↦ Submodule.subset_span hx) (fun c u v w hu hv hw ↦ ?_)
+  simp only [vsub_eq_sub, vadd_eq_add]
+  apply Submodule.add_mem _ _ hw
+  exact Submodule.smul_mem _ _ (Submodule.sub_mem _ hu hv)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace.lean:1436]: Arguably a bit cleaner:
```suggestion
  intro x hx
  show x ∈ Submodule.span k s
  induction hx using affineSpan_induction' with
  | Hs x hx => exact Submodule.subset_span hx
  | Hc c u _ v _ w _ hu hv hw =>
    simp only [vsub_eq_sub, vadd_eq_add]
    apply Submodule.add_mem _ _ hw
    exact Submodule.smul_mem _ _ (Submodule.sub_mem _ hu hv)
```

**Review by eric-wieser — APPROVED** [review]
bors d+

It would be nice to also prove the stronger result,
```
affineSpan k (insert 0 s) = (Submodule.span k s).toAffineSubspace
```
but that's a bit more work.

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace.lean (hunk 1 above)
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace.lean:1430]: To make it clear that this is specialized to `P = V`:
```suggestion
/-- When the affine space is also a vector space, the affine span is contained within the linear span -/
lemma affineSpan_subset_span {s : Set V} : (affineSpan k s : Set V) ⊆ Submodule.span k s := by
```
